US05602077
Preparation of 3-[4-chloro-2-fluoro-5-(hydroxy)phenyl]-1-methyl-6-(trifluoromethyl)-2,4(1H, 3H) -pyrimidinedione
A mixture of 1.12 g (2.61 mmol) of 3-[4-chloro-2-fluoro-5-(phenylmethoxy)phenyl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione and 220 mg of 10% palladium on charcoal in 40 mL of ethyl acetate was placed in a Paar bottle and was agitated under 45 psi hydrogen over a 20 hour period. It was filtered and washed with 100 mL of ethyl acetate. The filtrate was concentrated in vacuo and the resultant crude product flash chromatographed over silica gel eluting with a 1:4 v:v mixture of ethyl acetate and hexane to give 521 mg of the title compound as a white foam.: 1H-NMR (CDCl3, 200 MHz) ppm 7.15 (d, 1H) , 6.9 (d, 1H) , 6.4 (s, 1H), 5.8 (s, 1H), 3.6 (s, 3H).

reactant | 3-[4-chloro-2-fluoro-5-(phenylmethoxy)phenyl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 2.61 mmol, 1.12 g | ClC1=CC(=C(C=C1OCC1=CC=CC=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C19H13ClF4N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 220 mg | [Pd] | Pd
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-chloro-2-fluoro-5-(hydroxy)phenyl]-1-methyl-6-(trifluoromethyl)-2,4(1H, 3H) -pyrimidinedione | 521 mg | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
